US08048909B2
{1-[(4-Methylphenyl)sulfonyl]-5-phenyl-1H-pyrrol-3-yl}methanol
A solution (30 mL) of ethyl 1-[(4-methylphenyl)sulfonyl]-5-phenyl-1H-pyrrole-3-carboxylate (2.85 g) in tetrahydrofuran was cooled to −78° C., and a 1.5 mol/l toluene solution (12.8 mL) of diisobutylaluminum hydride was added dropwise over 30 min, and the mixture was further stirred at −78° C. for 1 hr. 1 mol/l Hydrochloric acid (20 mL) was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate=6:1→1:1) to give the title compound as a brown oil (yield 2.29 g, 91%).

reactant | ethyl 1-[(4-methylphenyl)sulfonyl]-5-phenyl-1H-pyrrole-3-carboxylate | 30 mL, 2.85 g | CC1=CC=C(C=C1)S(=O)(=O)N1C=C(C=C1C1=CC=CC=C1)C(=O)OCC | C20H19NO4S
reactant | toluene | 1.5 mol/l, 12.8 mL | C1(=CC=CC=C1)C | C7H8
reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | Hydrochloric acid | 1 mol/l, 20 mL | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | {1-[(4-Methylphenyl)sulfonyl]-5-phenyl-1H-pyrrol-3-yl}methanol | yield 2.29 g, 91% | CC1=CC=C(C=C1)S(=O)(=O)N1C=C(C=C1C1=CC=CC=C1)CO | C18H17NO3S
